US04438128
1-Phenoxy-3-[2-(4-amino-6,7-dimethoxyquinazolin-2-ylamino)-ethylamino]-propan-2-ol
3.8 g. Phenyl glycidyl ether and 10 g. 2-(2-aminoethylamino)-4-amino-6,7-dimethoxyquinazoline are dissolved in 5 ml. dimethylformamide and left to stand for 48 hours at ambient temperature. The reaction mixture is then poured into water, filtered with suction and purified chromatographically on a silica gel column in the manner described in Example 24. There are obtained 2.5 g. (24% of theory) of the desired product in the form of colorless crystals; m.p. 122°-124° C., after recrystallization from isopropyl alcohol.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 2-(2-aminoethylamino)-4-amino-6,7-dimethoxyquinazoline | NCCNC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C12H17N5O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Phenoxy-3-[2-(4-amino-6,7-dimethoxyquinazolin-2-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC)O | C21H27N5O4
